US08008481B2
A mixture of 3-(7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-benzaldehyde (Preparation #25, F (using 3-bromobenzaldehyde), 50 mg, 0.14 mmol), and NaBH4 (0.01 g, 0.26 mmol) in MeOH (2 mL) was stirred at ambient temperature for about 1 hour. The reaction mixture was concentrated under reduced pressure then the residue was purified by reverse phase preparative HPLC (Thermo Hypersil-Keystone 250×21.2 mm 8μ Hypersil® HS C18 column; 5% CH3CN/50 mM aqueous ammonium acetate hold for 5 min; 5-50% CH3CN/50 mM aqueous ammonium acetate over 20 min; 50-100% CH3CN/50 mM aqueous ammonium acetate over 1 min; hold at 100% CH3CN for 5 minutes, 21 mL/min) to yield [3-(7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-phenyl]-methanol (6 mg, 12%); (DMSO-d6, 400 MHz) 8.8 (d, 1H), 8.55 (d, 1H), 8.37 (s, 1H), 8.19 (d, 1H), 8.18 (s, 1H), 8.10 (t, 1H), 8.04 (dd, 1H), 7.93 (dd, 1H), 7.89 (d, 1H, 7.45 (m, 2H), 5.40 (t, 1H), 4.6 (d, 2H); RP-HPLC (Table 1, Method e) Rt=1.85 min; m/z: (M−H)− 355.8.

reactant | 3-(7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-benzaldehyde | 0.14 mmol, 50 mg | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)C=1C=C(C=O)C=CC1)C=CC=C2 | C22H14N2OS
reactant | NaBH4 | 0.26 mmol, 0.01 g | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | [3-(7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-phenyl]-methanol | 6 mg, 12% | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)C=1C=C(C=CC1)CO)C=CC=C2 | C22H16N2OS
